US06355653B1
8.0 g (0.023 mol) 2,4-Difluoro-benzoic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide were heated at 210° C. for 20 minutes. The molten mass was then cooled, dissolved in 30 ml hot ethanol and stirred overnight at room temperature. The precipitated crystals were filtered off and dried to yield 5.35 g (71%) 3-benzenesulfonylmethyl-5-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole as white solid, MS m/e (%): 336 (M+H+, 100).

reactant | 2,4-Difluoro-benzoic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide | 0.023 mol, 8.0 g | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(C1=C(C=C(C=C1)F)F)=O | C15H13F2N3O3S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-benzenesulfonylmethyl-5-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole | 5.35 g, 71% | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C1=C(C=C(C=C1)F)F | C15H11F2N3O2S
